US06627755B1
3-(2-Chloro-phenyl)-6-fluoro-2-thioxo-2,3-dihydro-1H-quinazolin-4-one
A solution of 1.04 g (6.71 mmol) of 5-fluoroanthranilic acid and 1.13 g (6.71 mmol) of 2-chlorophenylisothiocyanate in 10 ml of glacial acetic acid was refluxed for 2.5 hours. The reaction mixture was cooled and the acetic acid was evaporated to give a yellow solid residue, which was taken up in ethyl acetate and ether. The solid was filtered off and washed with ether and air dried to give 1.48 g (72%) of the desired product, m.p. 295-297° C.

reactant | 5-fluoroanthranilic acid | 6.71 mmol, 1.04 g | FC1=CC=C(C(C(=O)O)=C1)N | C7H6FNO2
reactant | 2-chlorophenylisothiocyanate | 6.71 mmol, 1.13 g | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 3-(2-Chloro-phenyl)-6-fluoro-2-thioxo-2,3-dihydro-1H-quinazolin-4-one | 1.48 g, 72% | ClC1=C(C=CC=C1)N1C(NC2=CC=C(C=C2C1=O)F)=S | C14H8ClFN2OS
